US09144557B2
To a slurry of 1-methyl-N-(3-(4-nitrophenyl)-1H-indol-6-yl)-1H-indole-5-carboxamide (59.0 mg, 0.14 mmol) in ethanol (1.50 mL) under an atmosphere of nitrogen was added 20 wt % palladium hydroxide on carbon (5.9 mg, 10 wt %), followed by a balloon of hydrogen. The reaction was stirred overnight at room temperature and was then filtered through a pad of Celite, rinsing with excess methanol and methylene chloride. The filtrate was concentrated to give a grey-pink solid for N-(3-(4-aminophenyl)-1H-indol-6-yl)-1-methyl-1H-indole-5-carboxamide (56.9 mg, 0.14 mmol, 100%).

reactant | 1-methyl-N-(3-(4-nitrophenyl)-1H-indol-6-yl)-1H-indole-5-carboxamide | 0.14 mmol, 59.0 mg | CN1C=CC2=CC(=CC=C12)C(=O)NC1=CC=C2C(=CNC2=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C24H18N4O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 1.50 mL | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 5.9 mg | [OH-].[OH-].[Pd+2]
product | N-(3-(4-aminophenyl)-1H-indol-6-yl)-1-methyl-1H-indole-5-carboxamide | 0.14 mmol, 56.9 mg, 100% | NC1=CC=C(C=C1)C1=CNC2=CC(=CC=C12)NC(=O)C=1C=C2C=CN(C2=CC1)C | C24H20N4O
